data/mechanisms/records/IMS8-EQ8.5a.json
{"mechanism_id": "IMS8-EQ8.5a", "species": [{"species_id": "hexanal_radical_cation", "mapped_smiles": "[O+:1]=[CH:2][CH2:3][CH2:4][CH:5]([1H:9])[CH2:6][CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butene_radical_cation", "mapped_smiles": "[CH2+:4][CH:5][CH2:6][CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "vinyl_alcohol_neutral", "mapped_smiles": "[1H:9][O:1][CH:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexanal_radical_cation"]}, {"state_id": "state_products", "species_ids": ["butene_radical_cation", "vinyl_alcohol_neutral"]}], "steps": [{"step_id": "step_mclafferty_alpha_i", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "bond", "atom_maps": [1, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 9]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "lone_pair", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_mclafferty_alpha_i", "support_type": "textbook_proposed", "locator": {"page": 142, "equation": "8.5", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Eq 8.5, upper scheme, alpha-i channel (arrow labelled 'ai'). McLafferty gamma-H rearrangement of the hexanal molecular ion (n-ionized at O, +. localized on oxygen exactly as drawn) with subsequent Ca-Cb cleavage; here the charge migrates to the C4H8 alkene (Stevenson competition, IE(butene)=9.6 eV printed left of the dashed line). The page draws 4 fishhook arcs shared by both 'or' outcomes (O-radical gamma-H abstraction; ring C=C formation; Ca-Cb cleavage). Moves 1-3 are drawn (H transfer); moves 4-5 encode the charge-retaining alkene ('i', inductive/heterolytic 2-electron cleavage of Ca-Cb with the oxocarbenium O=C pair collapsing to an O lone pair) and are NOT drawn as separate arcs. but-1-ene radical cation localized as the distonic form (+ on C4, odd e- on C5); the page draws the delocalized CH2=CH-CH2CH3 +. form. m/z is curator-computed; the 5% is printed. [RECHECK 2026-07-24: arc count corrected 3->4 per a zoomed re-read; the gamma-H abstraction is drawn as TWO barbs (O-radical->H and the gamma C-H bond electron->O-H), not one.]"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "butene_radical_cation", "step_id": "step_mclafferty_alpha_i", "observed_mz": 56.0621, "relative_intensity": 0.05, "hydrogen_shift": 1, "isotope_offset": 0, "status": "observed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
